US04281188
110 g (0.24 M) of (S)-benzyl-{1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]carbamoyl]ethyl}carbamate are dissolved in 400 ml of 30-33% hydrogen bromide solution in glacial acetic acid. 30 ml of methylene chloride are added thereto, the mixture is stirred at room temperature for 45 minutes, concentrated, treated with water and extracted 2-3 times with ether. The aqueous solution is cooled in ice, neutralised with solid sodium bicarbonate, extracted with methylene chloride, dried over sodium sulphate, filtered and concentrated. The residue is treated with 50 ml of glacial acetic acid and 500 ml of toluene. The mixture is heated to reflux for 15 to 20 minutes and evaporated. The residual oil is dissolved in methylene chloride and the solution obtained is washed with saturated sodium bicarbonate solution, dried over sodium sulphate, filtered and concentrated. The residue is dissolved in 400 ml of benzene and seeded with rac-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one. The mixture is left to stand at room temperature overnight, 2 g of racemate crystallising out. The mother liquor is concentrated and treated with ether. By crystallisation from ether there is obtained (S)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one which melts at 130°-134° C.; [α]25D =+377.2° (in methylene chloride; 1%).

reactant | (S)-benzyl-{1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]carbamoyl]ethyl}carbamate | 0.24 M, 110 g | C(C1=CC=CC=C1)OC(N[C@@H](C)C(NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)F)=O)=O)=O | C24H20FN3O6
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | hydrogen bromide | 400 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=N[C@H](C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C16H12FN3O3
